US03960904
A mixture of 10 parts of 3β-acetoxy-6-(chloromethyl)cholest-5-ene and 8 parts of dibutylamine is heated at 90°-95° for 3 hours, whereupon excess amine is removed by vacuum distillation and the residue is extracted with hexane. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation, affording 3β-acetoxy-6-(dibutylaminomethyl)cholest-5-ene as the residue.

reactant | 3β-acetoxy-6-(chloromethyl)cholest-5-ene | C(C)(=O)O[C@@H]1CC2=C(C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)CCl | C30H49ClO2
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 3β-acetoxy-6-(dibutylaminomethyl)cholest-5-ene | C(C)(=O)O[C@@H]1CC2=C(C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)CN(CCCC)CCCC | C38H67NO2
